US05142056
A. 1-(2-Bromohexanoyl)-4-methylpiperazine
Using the mixed anhydride procedure of Example 6F, 2-bromohexanoic acid was coupled to 1-methylpiperazine to provide the desired compound.

reactant | 2-bromohexanoic acid | BrC(C(=O)O)CCCC | C6H11BrO2
reactant | 1-methylpiperazine | CN1CCNCC1 | C5H12N2
product | 1-(2-Bromohexanoyl)-4-methylpiperazine | BrC(C(=O)N1CCN(CC1)C)CCCC | C11H21BrN2O
